US05866592
N-(N-4-Cyanobenzoyl-α,α-dimethyl-β-alanyl)-4-piperidineacetic acid benzyl ester (0.6 g) was dissolved in pyridine (15 ml) and hydrogen sulfide gas was introduced for 1 hour. The reaction container was sealed and the reaction mixture was stirred at a room temperature for 12 hours. The solvent was distilled off and methyl iodide (2 g) was added, followed by refluxing in acetone for 3 hours. After the solvent and excess methyl iodide were distilled off from the reaction solution, ammonium acetate (0.2 g) was added and the mixture was refluxed in methanol for 6 hours. After the solvent was distilled off, the residue was dissolved in a small amount of methylene chloride and reprecipitated from hexane to yield N-(N-4-amidinobenzoyl-α,α-dimethyl-β-alanyl)-4-piperidineacetic acid benzyl ester (0.25 g, 40.0%).

reactant | N-(N-4-Cyanobenzoyl-α,α-dimethyl-β-alanyl)-4-piperidineacetic acid benzyl ester | 0.6 g | C(C1=CC=CC=C1)OC(CC1CCN(CC1)C(C(CNC(C1=CC=C(C=C1)C#N)=O)(C)C)=O)=O | C27H31N3O4
reactant | hydrogen sulfide | S | H2S
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | N-(N-4-amidinobenzoyl-α,α-dimethyl-β-alanyl)-4-piperidineacetic acid benzyl ester | 0.25 g, 40.0% | C(C1=CC=CC=C1)OC(CC1CCN(CC1)C(C(CNC(C1=CC=C(C=C1)C(N)=N)=O)(C)C)=O)=O | C27H34N4O4
